US05167695
2-(4-Chlorophenyl)-3-ethyl-7-chloro-3H-imidazo[4,5-h]quinoline
A mixture of 4.1 g (20 mmol) of 8-amino-3-chloro-7-ethylaminoquinoline, 3.1 g (20 mmol) of 4-chlorobenzoic acid and 20 ml of polyphosphoric acid is heated at 120° C. for 1 hour. It is allowed to cool to 90° C., and 100 g of ice are slowly added to the solution. The mixture is then poured into 200 g of ice, and the pH is adjusted to 12 with concentrated sodium hydroxide solution. The precipitate is filtered off with suction, washed thoroughly with hot water, dried at 70° C. under reduced pressure and recrystallized from ethyl acetate.

reactant | 8-amino-3-chloro-7-ethylaminoquinoline | 20 mmol, 4.1 g | NC=1C(=CC=C2C=C(C=NC12)Cl)NCC | C11H12ClN3
reactant | 4-chlorobenzoic acid | 20 mmol, 3.1 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(4-Chlorophenyl)-3-ethyl-7-chloro-3H-imidazo[4,5-h]quinoline | ClC1=CC=C(C=C1)C1=NC2=C(C=CC=3C=C(C=NC23)Cl)N1CC | C18H13Cl2N3
